US07666888B2
(a) 3-methyl-5-(2-oxo-2-phenylethyl)isoxazole-4-carboxylic Acid
A solution of lithium bis(trimethylsilyl)amide (10 g, 60 mmol, 3 eq) in toluene (60 mL) was added drop wise during 15 min to a solution of 3,5-dimethylisoxazole-4-carboxylic acid (2.82 g, 20 mmol) and methyl benzoate (2.5 mL, 1 eq) in THF (20 mL) at a temperature not exceeding 40 deg. After 1 h the reaction was quenched by the addition of a water solution of 0.1M HCl (0.3 L) leaving the water phase still basic and the phases was separated. The water phase was washed with toluene and then reduced in volume by evaporation until most of the residual organic solvents were removed. 1M HCl was added dropwise with stirring. The resulting crystals were filtered and dried in vacuum to yield the title compound. 1H NMR (400 MHz, CHLOROFORM-D) δ ppm 2.45 (s, 3H) 4.75 (s, 2H) 7.43-7.51 (m, 2H) 7.55-7.63 (m, 1H) 7.86-8.12 (m, 2H)

reactant | lithium bis(trimethylsilyl)amide | 60 mmol, 10 g, 3 eq | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 3,5-dimethylisoxazole-4-carboxylic acid | 20 mmol, 2.82 g | CC1=NOC(=C1C(=O)O)C | C6H7NO3
reactant | methyl benzoate | 2.5 mL, 1 eq | C(C1=CC=CC=C1)(=O)OC | C8H8O2
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-methyl-5-(2-oxo-2-phenylethyl)isoxazole-4-carboxylic Acid | CC1=NOC(=C1C(=O)O)CC(C1=CC=CC=C1)=O | C13H11NO4
